US05721264
N-[1-(2-phenylethyl)-5-iodo-4-ethoxycarbonylpyrazol-3-yl]-N-[(2'-(N-triphenylmethyl-(1H-tetrazol-5-yl))-biphenyl-4-yl)methyl]-n-propylamine
0.18 ml of 1.6M n-butyl lithium/hexane solution were added to THF solution (10 ml) of 202 mg of N-[1-(2-phenylethyl)-5-bromo-4-ethoxycarbonylpyrazol-3-yl]-N-[(2'-(N-triphenylmethyl(1H-tetrazol-5-yl))biphenyl-4-yl)methyl]-n-propylamine, while cooling with dry ice-acetone. After stirred for 2 hours, 667 mg of 1,2-diiodoethane were added thereto. After stirred for one hour, the mixture was then stirred at room temperature for further one hour. 10 ml of aqueous ammonium chloride solution were added to the reaction solution, THF was distilled off under reduced pressure, and the resultant was extracted with 50 ml of dichloromethane. After dried over magnesium sulfate, this was subjected to silica gel column chromatography (n-hexane-ethyl acetate=5:1) to obtain 84 mg of the intended compound as a pale red, amorphous solid.

reactant | n-butyl lithium hexane | 1.6M, 0.18 ml | C(CCC)[Li].CCCCCC
reactant | N-[1-(2-phenylethyl)-5-bromo-4-ethoxycarbonylpyrazol-3-yl]-N-[(2'-(N-triphenylmethyl(1H-tetrazol-5-yl))biphenyl-4-yl)methyl]-n-propylamine | 202 mg | C1(=CC=CC=C1)CCN1N=C(C(=C1Br)C(=O)OCC)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC | C50H46BrN7O2
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | 1,2-diiodoethane | 667 mg | ICCI | C2H4I2
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-[1-(2-phenylethyl)-5-iodo-4-ethoxycarbonylpyrazol-3-yl]-N-[(2'-(N-triphenylmethyl-(1H-tetrazol-5-yl))-biphenyl-4-yl)methyl]-n-propylamine | 84 mg | C1(=CC=CC=C1)CCN1N=C(C(=C1I)C(=O)OCC)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC | C50H46IN7O2
